US05506224
EXAMPLE 2-PREPARATION OF N,N-BIS(2-HYDROXYETHYL)-PALMITAMIDE
A solution of 2.75 g palmitoyl chloride (10 mmol) in 20 ml anhydrous ethylether is added drop by drop in 30 minutes to a solution of 2.2 g diethanolamine (21 mmol) in 50 ml methanol and 100 ml anhydrous ethyl ether under continuous stirring at 0° C.

reactant | palmitoyl chloride | 10 mmol, 2.75 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | diethanolamine | 21 mmol, 2.2 g | N(CCO)CCO | C4H11NO2
solvent | ethylether | 20 ml | C(C)OCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | N,N-BIS(2-HYDROXYETHYL)-PALMITAMIDE | OCCN(C(CCCCCCCCCCCCCCC)=O)CCO | C20H41NO3
